US08067362B2
5-(15-tert-Butoxycarbonyl-pentadecanoylamino)-isophthalic acid 1-tert-butyl ester 3-(2,5-dioxo-pyrrolidin-1-yl)ester
5-(15-tert-Butoxycarbonyl-pentadecanoylamino)-isophthalic acid mono-tert-butyl ester (140 mg, 0.25 mmol) was dissolved in dry THF (3.5 ml). TSTU (95 mg, 0.30 mmol) and DIPEA (70 ul, 0.30 mmol) were added. The mixture was stirred at RT under nitrogen over the week-end. The reaction mixture was almost dry. EtOAc was added and the precipitate was removed by filtration. The filtrate was extracted with 0.1 N HCl (2×), brine (1×), dried (Na2SO4) and concentrated to give the title compound as a syrup containing a trace of an impurity in a quantitative yield (0.165 mg).

reactant | 5-(15-tert-Butoxycarbonyl-pentadecanoylamino)-isophthalic acid mono-tert-butyl ester | 0.25 mmol, 140 mg | C(C)(C)(C)OC(C1=CC(C(=O)O)=CC(=C1)NC(CCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O)=O | C32H51NO7
reactant | TSTU | 0.30 mmol, 95 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | DIPEA | 0.30 mmol, 70 ul | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 3.5 ml | C1CCOC1 | C4H8O
product | 5-(15-tert-Butoxycarbonyl-pentadecanoylamino)-isophthalic acid 1-tert-butyl ester 3-(2,5-dioxo-pyrrolidin-1-yl)ester | quantitative yield | O=C1N(C(CC1)=O)OC(C=1C=C(C(=O)OC(C)(C)C)C=C(C1)NC(CCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O)=O | C36H54N2O9
